US07202363B2
3-(4-bromo-2-thienyl)-2-butenoic acid
A solution of ethyl (diethoxyphosphino)acetate (34 mL, 171 mmol) in THF (35 mL) was added dropwise via addition funnel, over 20 minutes, to a 0° C. suspension of NaH (6.9 g, 60% oil dispersion, 172 mmol) in THF (200 mL). The resulting mixture was stirred at 0° C. for 30 minutes, then treated with a solution of 1-(4-bromo-2-thienyl)ethanone (23.6 g, 115 mmol) in THF (75 mL). The reaction was warmed to room temperature, stirred for 4 hours, quenched with water, neutralized with 2N HCl, and extracted three times with ethyl acetate. The combined extracts were washed with brine, dried (Na2SO4), filtered, and concentrated. The concentrate was dissolved in ethanol (350 mL) and THF (190 mL), treated with 2N LiOH (115 mL), stirred overnight at room temperature, and concentrated. The remaining aqueous solution was washed with diethyl ether, acidified with 2N HCl, and filtered. The filter cake was washed with water and dried to provide 22.38 g (79% yield) of the desired product as a mixture of E and Z isomers. MS (ESI(+)) m/e 244.7, 246.7 (M+H)+.

reactant | ethyl (diethoxyphosphino)acetate | 171 mmol, 34 mL | C(C)OP(OCC)CC(=O)OCC | C8H17O4P
reactant | NaH | 172 mmol, 6.9 g | [H-].[Na+]
reactant | 1-(4-bromo-2-thienyl)ethanone | 115 mmol, 23.6 g | BrC=1C=C(SC1)C(C)=O | C6H5BrOS
solvent | THF | 35 mL | C1CCOC1 | C4H8O
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | THF | 75 mL | C1CCOC1 | C4H8O
product | 3-(4-bromo-2-thienyl)-2-butenoic acid | 22.38 g, 79% yield | BrC=1C=C(SC1)C(=CC(=O)O)C | C8H7BrO2S
